US07479502B2
3-Bromo-4-hydroxyphenylacetic acid (12.0 g, 0.052 mol) was dissolved in methanol and the solution was stirred at room temperature while thionyl chloride (ten drops) was added. The mixture was stirred for two hours and then concentrated under reduced pressure. The residue was taken up in saturated aqueous sodium bicarbonate and the solution extracted with diethyl ether (×3). The organic layers were collected, washed with water and brine, dried over MgSO4 and concentrated in vacuo to give methyl-3-bromo-4-hydroxyphenylacetate as a golden oil (12.6 g).

reactant | 3-Bromo-4-hydroxyphenylacetic acid | 0.052 mol, 12.0 g | BrC=1C=C(C=CC1O)CC(=O)O | C8H7BrO3
reactant | methanol | CO | CH4O
catalyst | thionyl chloride | ten drops | S(=O)(Cl)Cl | Cl2OS
product | methyl-3-bromo-4-hydroxyphenylacetate | 12.6 g | COC(CC1=CC(=C(C=C1)O)Br)=O | C9H9BrO3
